US07105517B2
A mixture of 4-methyl-2-methylthio-pyrimidine (30 g, 0.21 mol) and methyl benzoate (30 g, 0.21 mol) is added to a solution of potassium tert-butoxide (54 g, 0.48 mol) in tetrahydrofuran (350 ml) with cooling in such a way that the reaction temperature does not exceed +20° C. After stirring the mixture for additional 20 minutes the solution is poured onto crushed ice. The resulting solution is acidified with concentrated hydrochloric acid and extracted with ethyl acetate. Drying of the organic phase, filtering and evaporation of the solvent under reduced pressure gives the 2-(2-methylthio-pyrimidin-4-yl)-1-phenyl-ethanone in form of a mixture of tautomers.

reactant | 4-methyl-2-methylthio-pyrimidine | 0.21 mol, 30 g | CC1=NC(=NC=C1)SC | C6H8N2S
reactant | methyl benzoate | 0.21 mol, 30 g | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | potassium tert-butoxide | 0.48 mol, 54 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 2-(2-methylthio-pyrimidin-4-yl)-1-phenyl-ethanone | CSC1=NC=CC(=N1)CC(=O)C1=CC=CC=C1 | C13H12N2OS
